US04421749
In a manner analogous to that described in Example 1, 16 g of triisobutylaluminum and 13.72 g of 2-phenyl-phenol are reacted in absolute toluene to afford (2-biphenylyloxy)diisobutylaluminum and this is then reacted with 20.52 g of pyridine-N-oxide-2-thiol to yield the title compound. The isolation of the product is carried out in an analogous manner. The yield of (2-biphenylyloxy)bis(2-pyridinethiolato)aluminum N,N'-dioxide, an almost white powder, is 33.4 g, about 92.5% of theory. Upon heating it sinters from about 174° C. and melts at 236°-238° C.

reactant | triisobutylaluminum | 16 g | C(C(C)C)[Al](CC(C)C)CC(C)C
reactant | 2-phenyl-phenol | 13.72 g | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (2-biphenylyloxy)diisobutylaluminum | C1(=C(C=CC=C1)O[Al](CC(C)C)CC(C)C)C1=CC=CC=C1 | InChI=1S/C12H10O.2C4H9.Al/c13-12-9-5-4-8-11(12)10-6-2-1-3-7-10;2*1-4(2)3;/h1-9,13H;2*4H,1H2,2-3H3;/q;;;+1/p-1
